Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year-old female with a history of roux-en-y gastric bypass 
___ at ___ c/b marginal ulcerations, ex lap from bike injury 
s/p ostomy, ETOH abuse, new dx of cirrhosis, and bulimia who 
initially presented with bulimia and was admitted to inpatient 
psychiatry. Medicine was consulted ___ for acute onset 
abdominal pain and transferred to the ICU.  
 
 The patient initially presented on ___ for low mood, poor 
energy, and suicidal ideation. She also has a history of 
bulimia, although was reported to eat small-moderate portions 
while on the inpatient psychiatry unit. She had no symptoms of 
alcohol withdrawal.  
 
 During her hospitalization, she was briefly transferred to 
Acute Care Surgery on ___ for I&D of abd wall abscess and then 
transferred back to Deac4. After the I&D, a fistulogram was 
performed which did not reveal a gastrocutaneous fistula, 
however surgery had suspicion that a fistula had formed btwn the 
abscess and the stomach remnant, which would not have been seen 
on the fistulogram. Wound drainage and surrounding skin 
irritation was managed with placement of an ostomy bag and 
barrier cream.  
 
 On the evening of ___, the medicine team was consulted for 
acute onset abdominal pain. The patient reported diffuse 
abdominal pain that started suddenly. Felt subjective fevers and 
shaking chills with diffuse abdominal pain. Reported nausea and 
had one episode of green emesis on the floor. She passed BM 
yesterday. Vitals were notable for tachycardia to 133, and fever 
of 103.1. Blood pressure stable at 115/50. Stat KUB was ordered, 
which did not demonstrate any evidence of free air, although 
study was limited.  
 She was started on cipro/flagyl. CT doesn't look different than 
prior on ___ showing no worsening abscess. Peritoneal abd. 1L 
fluid and 25mg albumin, initial lactate 2.4, BP 100s, tachy 
improving, fever coming down with APAP. repeat lactate 5. 
getting another L fluids.  
 On arrival to the MICU, patient endorses persistent abdominal 
pain and lightheadedness/dizziness. She was started on 
peripheral neo, and CVL placed and switched to levophed given 
persistent hypotension despite IVF resuscitation.  
 
 Review of systems:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough or wheezing. Denies chest pain, chest 
pressure, palpitations, or weakness. Denies nausea, vomiting, 
diarrhea, constipation, or changes in bowel habits. Denies 
dysuria, frequency, or urgency. Denies arthralgias or myalgias. 
Denies rashes or skin changes.  

 
Past Medical History:
s/p roux-en-y gastric bypass ___ at ___  
 Cirrhosis  
 bulimia  
 marginal ulcerations  
 PUD  
 suicidal ideations/past attempts  
 alcohol dependence/abuse  
 injured in bicycle accident in ___ requiring ex-lap  

 
Social History:
___
Family History:
-Mother reported to have history of alcohol use problems.  
-Great aunt with schizophrenia.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==========================
Vitals: T: 98.6 BP: 93/45 P: 96 R: 27 O2: 95% 2L  
 GENERAL: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear  
 NECK: supple, JVP not elevated, no LAD  
 LUNGS: Decreased breath sounds and dullness to percussion 
midway up R lung, no crackles/wheezing/rhonchi, breathing 
comfortably on 2L O2  
 CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
 ABD: soft, non-distended, diffusely TTP, bowel sounds present  
 EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 NEURO: AAOx3, moving all extremities with purpose, grossly 
non-focal  

DISCHARGE PHYSICAL EXAM:
==========================
VS - 98, 101 / 62, 86, 18, 97 ra 
I/O ___ yesterday, ___  8 hr
General: well appearing, NAD  
HEENT: MMM, EOMI  
Neck: no JVD, no LAD  
CV: rrr, ___ systolic murmur best heard in LUSB
LUNG: mildly decreased breath sounds in base of R lung, no 
wheezes, ronchi, crackles
ABDOMEN: nondistended, obese, +BS, epigastrium mildly TTP, 
ostomy bag in place near epigastric area, no rebound/guarding, 
no hepatosplenomegaly  
GU: deferred  
Ext: warm and well perfused, pulses, no edema, no TTP  
Neuro: AOx3, grossly normal, no asterixis

 
Pertinent Results:
ADMISSION LABS:
=====================
___ 06:28AM BLOOD WBC-4.6 RBC-2.74* Hgb-7.1* Hct-22.2* 
MCV-81* MCH-25.9* MCHC-32.0 RDW-23.7* RDWSD-67.7* Plt ___
___ 10:52PM BLOOD Neuts-81.5* Lymphs-14.4* Monos-3.5* 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-3.45# AbsLymp-0.61* 
AbsMono-0.15* AbsEos-0.01* AbsBaso-0.01
___ 10:52PM BLOOD Glucose-88 UreaN-10 Creat-0.6 Na-131* 
K-3.7 Cl-98 HCO3-24 AnGap-13
___ 10:52PM BLOOD ALT-41* AST-159* AlkPhos-91 TotBili-2.5*
___ 10:52PM BLOOD Calcium-7.6* Phos-3.1 Mg-1.3*

DISCHARGE LABS:
=====================
___ 06:53AM BLOOD WBC-6.2 RBC-2.63* Hgb-7.4* Hct-22.8* 
MCV-87 MCH-28.1 MCHC-32.5 RDW-26.6* RDWSD-81.6* Plt ___
___ 06:53AM BLOOD Glucose-76 UreaN-10 Creat-0.6 Na-137 
K-3.8 Cl-102 HCO3-24 AnGap-15
___ 06:53AM BLOOD ALT-57* AST-184* AlkPhos-63 TotBili-3.0*
___ 06:53AM BLOOD Calcium-7.9* Phos-3.8 Mg-1.4*
___ 05:51AM BLOOD HBsAb-Negative HBcAb-NEGATIVE

MICROBIOLOGY:
======================
                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative).
 
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 12:17 pm FLUID,OTHER      Source: Right Abdomen. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   YEAST(S). 

   FLUID CULTURE (Final ___: 
      YEAST.    SPARSE GROWTH. 
      ENTEROCOCCUS SP..    RARE GROWTH. 
      BETA STREPTOCOCCUS GROUP B.    RARE GROWTH. 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
in this
         culture. 
         Work-up of organism(s) listed discontinued (excepted 
screened
         organisms) due to the presence of mixed bacterial flora 
detected
         after further incubation. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


Blood cultures NGTD

IMAGING/STUDIES:
======================
CT A/P ___. Gastro-cutaneous fistula extending from the native gastric 
antrum to the right upper quadrant as detailed above. 
2. Dysmorphic appearing liver and splenomegaly as detailed 
above, compatible with the known underlying cirrhosis and 
underlying portal hypertension.  Small amount of associated 
ascites has increased compared to prior evaluation.  Assessment 
for solid liver lesions is very limited due to lack of 
intravenous contrast. 
3. Large right pleural effusion, partially imaged but slightly 
worse as 
compared to prior, as detailed above. 

UGI Air w/ KUB ___
Attempts to cannulate the patient's cutaneous fistula were 
unsuccessful.  
Water-soluble contrast was administered by mouth, however the 
gastro cutaneous fistula was not opacified. 

KUB ___
Nonobstructive bowel gas pattern.

CT A/P ___. Postsurgical changes along the anterior abdominal wall 
reflecting recent I&D.  A gastrocutaneous tract is again 
demonstrated but is not definitely patent.  No new or drainable 
collections.  No hematoma. 
2. Cirrhotic liver. 
3. Mild ascites. 
4. Large right pleural effusion with near complete collapse of 
the right lower lobe, unchanged from prior. 

Chest PA ___
Interval recurrence of a previously drained moderate right 
pleural effusion. 
Stable mild cardiomegaly. 
Focal opacity overlying the left lateral chest likely represent 
osteochondroma or posttraumatic rib coalition. 

KUB ___. Nonobstructive bowel gas pattern. 
2. Assessment for free intraperitoneal air is limited on supine 
radiographs, however there is no gross pneumoperitoneum. If 
there is clinical concern for pneumoperitoneum, advise upright 
or left lateral decubitus radiograph. 

CT Chest ___.  Large nonhemorrhagic right pleural effusion causing near 
complete collapse of the right lower lobe, partial collapse of 
the middle lobe, and mild atelectasis in the right upper lobe. 
2.  Tiny left pleural effusion with mild basilar atelectasis. 

CT A/P ___. A gastrocutaneous fistulous tract from the excluded stomach 
in the biliary limb is once again re- demonstrated, with no 
evidence of fluid within the tract.  No drainable collections. 
2. Interval thickening of the cecum, ascending, and proximal 
transverse 
concerning for infectious colitis, possibly C. difficile. 
3. Cirrhotic liver.  Small to moderate volume ascites. 
4. Moderate to large volume right pleural effusion with 
associated near 
complete collapse of the right lower lobe.  Small left pleural 
effusion with associated mild subsegmental atelectasis, new from 
previous. 

CXR ___
In comparison with the study ___, there again is a 
substantial right layering pleural effusion with underlying 
compressive atelectasis.  However, there is substantial increase 
in opacification involving the left hemithorax.  
Although this could reflect development of a significant 
pneumonia, the discussion with Dr. ___ that the 
patient has no signs of infection clinically.  Therefore, it is 
much more likely that this is a manifestation of developing 
pulmonary edema, which is difficult to assess on the right side 
due to the overlying pleural effusion.  

RUQ US ___
No intra or extrahepatic ductal dilatation. 
Hepatic cirrhosis, and splenomegaly.  Small perihepatic ascites, 
and for this reason a location was not marked for paracentesis. 
Bilateral, right greater than left, pleural effusions. 

CXR ___. New pigtail catheter projects over the right right lower lung 
with a substantial interval decrease in right pleural effusion, 
now small with associated atelectasis. 
2. Trace right apical pneumothorax. 
3. Significant interval improvement in left-sided pulmonary 
edema, now mild. 

CXR ___
Comparison to ___.  Stable position of the right chest 
tube.  The tube has drained almost all of the pre-existing right 
pleural effusion.  Only a minimal amount of pleural effusion is 
visualized, projecting over the costophrenic sinus.  There is no 
evidence for the presence of a pneumothorax.  The lung volumes 
have decreased and the size of the cardiac silhouette is now at 
the upper range of normal.  No new focal parenchymal opacities.  
The right internal jugular vein catheter is in stable correct 
position. 

 
Brief Hospital Course:
Ms. ___ is a ___ year-old female with a history of roux-en-y 
gastric bypass ___ c/b marginal ulcerations, ETOH abuse, new 
cirrhosis, and bulimia who initially presented to with bulimia 
and depression admitted to inpatient psychiatry. Transferred to 
ICU for septic shock and acute onset abdominal pain of unclear 
etiology, but which improved with antibiotics and supportive 
care. Her course was also complicated by hepatic hydrothorax, 
which was stable after initial drainage and PO diuretics. She 
was medically cleared to return to inpatient psychiatry on ___. 
.
# Septic Shock: Patient found on inpatient psych unit with new 
fever to 103.1, with hypotension refractory to IVF 
resuscitation, and initial lactate mildly elevated. She was 
transferred to the ICU, placed on broad spectrum antibiotics for 
concern for intra-abdominal process given abdominal pain, 
cirrhosis. Bedside ultrasound without ascites, and also patient 
underwent CT scan which did not demonstrate any fluid 
collection, abscess or colitis. Throughout day 1 in ICU, patient 
continued to have increased pressor requirement, with worsening 
serial abdominal exams, and therefore underwent repeat CT scan 
which was concerning for a potentially ascending colitis. 
Patient was evaluated by surgery given prior history of I&D for 
abscess, and had more reassuring abdominal exams. She was 
initially placed on vancomycin, zosyn, and flagyl, and after 
clinical improvement was called out the regular medicine floor 
and remained stable on cipro/flagyl. She finished a 14d course 
of antibiotics on ___. 
. 
# Abdominal Pain: Concern for acute intra-abdominal process 
given prior gastro-cutaneous fistula on CT scan previously, and 
recent I&D of abdominal wall abscess. Patient's abdominal exams 
were monitored in this setting, and improved as above. Repeat CT 
imaging suggestive of infectious colitis. RUQ US showed small 
perihepatic ascites and no evidence of SBP. 
. 
# Right pleural effusion: Patient found to have new oxygen 
requirement on admission, with prior demonstration of a right 
sided pleural effusion. Patient previously had undergone 
thoracentesis with studies supportive of a hepatic hydrothorax. 
Patient underwent bedside ultrasound which did not demonstrate 
any loculations of the fluid, and also underwent CT Torso for 
any infectious process source identification which demonstrated 
homogenous fluid. Shortness of breath has improved with diuresis 
and she was weaned to RA. Given unclear source of septic shock 
and large effusion, repeat thoracentesis was done on ___ and 
chest tube was placed ___. Patient's breathing improved 
after placement of chest tube. CXR ___ showed improvement of 
pleural effusion. Her fluid status was stable on PO diuretics at 
time of discharge. 

# Cirrhosis: Patient with prior diagnosis of cirrhosis ___ to 
ETOH, with recent admission for alcoholic hepatitis. Patient had 
recent EGD without evidence of varices, and LFTs trended while 
inpatient. She was started on spironolactone and Lasix, and will 
follow up at the ___ after discharge. 

#) Transaminitis: On the floor, patient had rising LFTs with AST 
predominance. Unclear etiology, could be from septic shock or 
secondary to infectious processes causing colitis. RUQ US shows 
small perihepatic ascites. No evidence of obstruction.
Tbili remained elevated in setting of cirrhosis but downtrended. 
LFTs downtrended on discharge. Hepatitis serologies were 
negative. 

# Depression / Bulimia: Patient transferred from ___ 
inpatient psychiatry unit for depression and bulimia. Patient 
had passive SI on admission, and previously was on 1:1 sitter 
given high risk of purging. On examination, teeth are eroded 
likely ___ to chronic vomiting. Patient on admission did not 
have any SI/HI, and discussions with psychiatry stated does not 
require 1:1 sit at this point. When medically cleared, she was 
discharged back to inpatient psychiatry team. 
. 
# Alcohol use Disorder: Patient did not have any symptoms of 
alcohol withdrawal, and was continued on supportive care with 
thiamine, folate and multivitamin. 
. 
# Peptic Ulcer Disease s/p gastric bypass: Patient's bypass 
previously complicated by marginal ulcers, with prior gastritis 
only demonstrating gastritis previously. Patient had guiac 
negative while inpatient and was continued on home sucralfate 
and pantoprazole. 
. 
# Anemia: Currently stable, patient with prior history of 
antibodies and therefore in future should be transfused with 
E-antigen negative blood products for all blood cell 
transfusions.
 
TRANSITION ISSUES
=================
- Recommend outpatient ECHO to evaluate new systolic murmur
- Repeat PA and lateral chest radiograph in 3 months to follow 
up ? pleural plaque on CXR
- Has outpatient appointments with PCP, hepatology and surgery
- Hepatic hydrothorax stable on diuretic regimen of Lasix 
20/Spironolactone 50 at time of discharge; this may need to be 
adjusted in the future 
- Please check CBC, Chem 10, and LFTs on ___, results to be 
followed by ___ Hepatology. Fax number (for outpt labs): 
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 50 mg PO QHS:PRN insomnia 
2. Docusate Sodium 100 mg PO BID 
3. FoLIC Acid 1 mg PO DAILY 
4. Furosemide 40 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
7. Pantoprazole 40 mg PO Q12H 
8. QUEtiapine Fumarate 50 mg PO TID 
9. Senna 8.6 mg PO BID:PRN constipation 
10. Sertraline 150 mg PO DAILY 
11. Spironolactone 100 mg PO DAILY 
12. Sucralfate 1 gm PO TID 
13. Thiamine 100 mg PO DAILY 
The Preadmission Medication list is accurate and complete.
1. TraZODone 50 mg PO QHS:PRN insomnia 
2. Docusate Sodium 100 mg PO BID 
3. FoLIC Acid 1 mg PO DAILY 
4. Furosemide 40 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
7. Pantoprazole 40 mg PO Q12H 
8. QUEtiapine Fumarate 50 mg PO TID 
9. Senna 8.6 mg PO BID:PRN constipation 
10. Sertraline 150 mg PO DAILY 
11. Spironolactone 100 mg PO DAILY 
12. Sucralfate 1 gm PO TID 
13. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. FoLIC Acid 1 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Pantoprazole 40 mg PO Q12H 
5. Thiamine 100 mg PO DAILY 
6. QUEtiapine Fumarate 50 mg PO TID 
7. Senna 8.6 mg PO BID:PRN constipation 
8. Sertraline 150 mg PO DAILY 
9. Sucralfate 1 gm PO TID 
10. Furosemide 20 mg PO DAILY 
11. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN pain 
12. Spironolactone 50 mg PO DAILY 
13. TraZODone 50 mg PO QHS:PRN insomnia 

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Primary:
Septic shock
Hepatic hydrothorax

Secondary: 
Cirrhosis 
Depression
Bulimia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ was a pleasure caring for you at ___. You were admitted 
because you had an infection and abdominal pain.

WHAT WE DID
===========
- We gave you antibiotics to treat the infection
- We drained the fluid in your lungs, which backed up because of 
your liver disease 
- We put you on diuretics to clear extra fluid in your body

WHAT TO DO NEXT
===============
- Take all medications as directed
- follow up with your PCP, the surgery team, and the liver team 
as scheduled
- Please seek medical help if you develop worsening abdominal 
pain, shortness of breath, accumulation of fluid in your legs 
 
Followup Instructions:
___